US08217043B2
b) [(4-Hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl)-amino]-acetic acid
Prepared according to the glycinolysis condition used in Example 1 step d) from 4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester (1.0 eq.) and sodium glycinate (15 eq.) in 2-methoxyethanol. ESI (m/z): 252 (M+H)+.

reactant | 4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester | 1.0 eq. | C(C)OC(=O)C1=C(C=2N(NC1=O)C=CC2)O | C10H10N2O4
reactant | sodium glycinate | 15 eq. | NCC(=O)[O-].[Na+]
solvent | 2-methoxyethanol | COCCO | C3H8O2
product | [(4-Hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl)-amino]-acetic acid | OC=1C=2N(NC(C1C(=O)NCC(=O)O)=O)C=CC2 | C10H9N3O5
